datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C(C[N:10]=[C:11]2[NH:12]CC[NH:62]2)C=C1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([N:10](CC2=CC=CC=C2)[C:11]2=[NH+:12]CC[NH:62]2)[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20;12=11,12"
"CC[O:92][C:61]([CH-:10][S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:34]([N+](=O)[O-])=[CH:33]1>>CC[O:92][C:61]([CH:10]([CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[CH:33]=[C:34]1[N+](=O)[O-])[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23"
"CC(C)(C)C[SiH:11]([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[N+:21](C)C)[CH:36]=[CH:35]1>>CC(C)(C)C[SiH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[N:21](C)C)[CH:36]=[CH:35]1 10,11=10,20;20,21=21"
C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[N:10](=[O:61])[O-:71]>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N+:10](=[O:61])[O-:71])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].[O+]#C[Mn-5:11](C#[O+])(C#[O+])(C#[O+])([P+](C1CCCCC1)(C1CCCCC1)C1CCCCC1)[H:10]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)=[CH:22]1.[O+]#C[Mn-4:11](C#[O+])(C#[O+])(C#[O+])[P+](C1CCCCC1)(C1CCCCC1)C1CCCCC1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC[Si:63](C)(CC)[CH2:62][C:11](C1=CC=CC=C1)(C1=CC=CC=C1)[H:10].CN1C=C[N+](C)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC[Si:63](C)(CC)[CH2:62][C+:11](C1=CC=CC=C1)C1=CC=CC=C1.CN1C=C[N+](C)=C1[C:22](=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[C:74](Cl)[CH:83]=[CH:82]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Sn:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[C:74](Cl)[CH:83]=[CH:82]1 10,11=10,20"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.OCC[NH2:10]>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH2+:10]CCO)[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"[CH2:20]=[CH:21][C:22]#[N:23].[O:10]=[C:11]1[CH:12]=[CH:13][C:14](=[N+:15]([O-:16])[O-:67])[CH:73]=[CH:72]1>>[O:10]([C:11]1=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:67])[CH:73]=[CH:72]1)[CH2:20][CH:21]=[C:22]=[N-:23] 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"CCCCN1C=C[N+:63]([CH2:62][C@@H:61]2CCC[NH:10]2)=C1.CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1>>CCCCN1C=C[N+:63]([CH2:62][C@@H:61]2CCC[NH+:10]2[CH:20]2[N-:21][C:32](OC)=[N:33][C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)=C1 10=20;20,21=21"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:63]1=[C:62]([BH2-:11][H:10])[N:73](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:65]=[CH:64]1.Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:63]1=[C:62]([BH2:11])[N:73](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:65]=[CH:64]1.Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C:20]([H:10])([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10,11=10,20"
"C[C:11]([H:10])([CH:12]=[CH2:13])[CH:72]=[CH2:73].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:34]([N+](=O)[O-])=[CH:33]1>>C[C:11](=[CH:12][CH2+:13])[CH:72]=[CH2:73].O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])[C:34]([N+](=O)[O-])=[CH:33]1 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
"C1C[N:10]=[C:11]2[N:12](C1)CC[S:62]2.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([N:10]2CCC[N+:12]3=[C:11]2[S:62]CC3)[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
